US05571821
N-(4-Bromo-3-methyl-5-isoxazolyl)-2,5-dimethylthiophene-3-sulfonamide was prepared in the same manner as described in Example 1 from 5-amino-4-bromo-3-methylisoxazole and 2,5-dimethylthiophene-3-sulphonyl chloride in 55% yield. Purification was achieved by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 77°-80° C.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 2,5-dimethylthiophene-3-sulphonyl chloride | CC=1SC(=CC1S(=O)(=O)Cl)C | C6H7ClO2S2
product | N-(4-Bromo-3-methyl-5-isoxazolyl)-2,5-dimethylthiophene-3-sulfonamide | 55% yield | BrC=1C(=NOC1NS(=O)(=O)C1=C(SC(=C1)C)C)C | C10H11BrN2O3S2
